US07648987B2
c) (3-Chloro-pyrazin-2-ylmethyl)-thiocarbamic acid S-methyl ester
To a suspension of C-(3-chloro-pyrazin-2-yl)-methylamine hydrochloride salt (5.13 g, 0.0285 mol) in dichloromethane (60 mL) were added N,N-diisopropylethylamine (15 mL, 0.085 mol) and carbonochloridothioic acid S-methyl ester (3.15 g, 0.0285 mol) at 0° C. After 5 min, the mixture was warmed to rt and kept at rt overnight. The mixture was diluted with dichloromethane (50 mL), washed with water (30 mL), sat. aq. NaHCO3 (2×30 mL), brine (30 mL), and dried over anhydrous sodium sulfate. The crude product was purified by silica gel chromatography (Hex:EtOAc=70:30→50:50) to give the title compound as a light-yellow solid; 1H NMR (CDCl3, 400 MHz) δ 2.41 (s, 3H), 4.76 (d, J=4.6 Hz, 2H), 6.67 (br s, 1H), 8.34 (d, J=2.5 Hz, 1H), 8.48 (d, J=2.5 Hz, 1H).

reactant | C-(3-chloro-pyrazin-2-yl)-methylamine hydrochloride salt | 0.0285 mol, 5.13 g | Cl.ClC=1C(=NC=CN1)CN
reactant | N,N-diisopropylethylamine | 0.085 mol, 15 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | carbonochloridothioic acid S-methyl ester | 0.0285 mol, 3.15 g | CSC(Cl)=O | C2H3ClOS
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (3-Chloro-pyrazin-2-ylmethyl)-thiocarbamic acid S-methyl ester | CSC(NCC1=NC=CN=C1Cl)=O | C7H8ClN3OS
